* C:\Users\nicla\Documents\GitHub\esd6_project\ltspice_sim\output_stage\output_stage.asc
XU1 In N002 +5V -5V N001 level1 Avol=1Meg GBW=10Meg Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
R1 N001 N002 14.7k
R2 0 N002 10k
R3 Out N001 1.47k
C1 Out 0 5.5n
V1 +5V 0 5
V2 0 -5V 5
V3 In 0 AC 1
.ac dec 100 10 100k
.lib UniversalOpAmp1.lib
.backanno
.end
