* C:\Users\nicla\Documents\GitHub\esd6_project\ltspice_sim\powersupply\powersupply.asc
D1 N004 N003 D
D2 N003 N001 D
D3 N004 N006 D
D4 N006 N001 D
V1 N003 N006 SINE(0 17 50)
C1 N002 0 1000µ
C4 N002 0 1000µ
C5 N002 0 220µ
R2 N002 N001 10 pwr=1
M1 N002 N005 N001 N001 PMOS
R3 N001 N005 200k
R4 N005 0 10k
C7 N001 N005 1µ
M2 N008 N007 N004 N004 NMOS
C2 0 N008 1000µ
C3 0 N008 1000µ
C6 0 N008 220µ
R1 N008 N004 10 pwr=1
R5 N007 N004 200k
R6 0 N007 10k
C8 N007 N004 1µ
.model D D
.lib C:\Users\nicla\AppData\Local\LTspice\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\nicla\AppData\Local\LTspice\lib\cmp\standard.mos
.tran 0.3s
.backanno
.end
