* C:\Users\nicla\Documents\GitHub\esd6_project\ltspice_sim\pre_amplifier\pre_amplifier.asc
XU1 In N001 +5V -5V N001 level1 Avol=1Meg GBW=10Meg Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
V1 +5V 0 5
V2 0 -5V 5
R1 N002 N001 1.47k
R2 0 N002 1k
C1 N002 0 12n
V3 In 0 SINE(0 1.75 1000) AC 1
D1 In +1.75V 1N4148
D2 -1.75V In 1N4148
C2 N003 N002 0.47µ
R3 N003 0 48k
V4 +1.75V 0 1.75
V5 0 -1.75V 1.75
.model D D
.lib C:\Users\nicla\AppData\Local\LTspice\lib\cmp\standard.dio
.tran 1ms
.lib UniversalOpAmp1.lib
.backanno
.end
